US05858995
A solution of 7-[2,6-dichloro-3-(2-methoxyethyl)oxymethoxymethylbenzoylamino]-2,3-dimethylbenzo[b]furan (305 mg) in 10% methanolic hydrogen chloride (4.5 m.l) was refluxed for 1 hour. The reaction mixture was cooled and the separated solid was collected to give 7-(2,6-dichloro-3-hydroxymethylbenzoylamino)-2,3-dimethylbenzo[b]furan (217 mg).

reactant | 7-[2,6-dichloro-3-(2-methoxyethyl)oxymethoxymethylbenzoylamino]-2,3-dimethylbenzo[b]furan | 305 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3C)C)C(=CC=C1COCOCCOC)Cl | C22H23Cl2NO5
solvent | hydrogen chloride | Cl | ClH
product | 7-(2,6-dichloro-3-hydroxymethylbenzoylamino)-2,3-dimethylbenzo[b]furan | 217 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3C)C)C(=CC=C1CO)Cl | C18H15Cl2NO3
